US07737166B2
2-Cyclopentene-7-[(3S)-3-(dimethylamino)pyrrolidinyl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (#124)
2-Cyclopentyl-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-275) (112 mg, 0.24 mmol) was dissolved in dimethyl sulfoxide (5 ml), then triethylamine (100 μl, 0.36 mmol) and (3S)-3-(dimethylamino)pyrrolidine (93 μl, 0.31 mmol) were added, followed by stirring under nitrogen atmosphere at 95° C. for 4 hours. After cooling, this was concentrated under reduced pressure, diluted, with chloroform, washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, then the solvent was evaporated away under reduced pressure. The resulting residue was purified by preparative TLC (chloroform:methanol=10:1, v/v) to obtain the entitled compound (48 mg, 33%) as a white crystal.

reactant | 2-Cyclopentyl-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.24 mmol, 112 mg | C1(CCCC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C20H17FN2O
reactant | triethylamine | 0.36 mmol, 100 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.31 mmol, 93 μl | CN([C@@H]1CNCC1)C | C6H14N2
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 2-Cyclopentene 7-[(3S)-3-(dimethylamino)pyrrolidinyl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 48 mg, 33% | C1C=CCC1.CN([C@@H]1CN(CC1)C=1C(=C(C(=C2N=COC21)C#N)C)C2=CC=CC=C2)C | InChI=1S/C21H22N4O.C5H8/c1-14-17(11-22)19-21(26-13-23-19)20(18(14)15-7-5-4-6-8-15)25-10-9-16(12-25)24(2)3;1-2-4-5-3-1/h4-8,13,16H,9-10,12H2,1-3H3;1-2H,3-5H2/t16-;/m0./s1
